US05807927
13.24 g (116 mmol) 1-methylhydantoin, 19.34 g (140 mmol) waterfree potassium carbonate and 29.2 g (3-bromo-propionaldehyd-dimethylacetal are allowed to react in 90 ml dimethylsulfoxid for 3 hours and 25 minutes at 112°-115° C. The reaction mixture is subsequently cooled to 5° C. and filtered with suction. The filtrate is evaporated in a rotary evaporator and the liquid crude product is purified by fractional distillation in vacuo to give 12.44 g (49.6% of theory) liquid 3-(3,3-dimethoxy-propyl)-1-methyl-imidazolidin-2,4-dione, having a boiling point of 112°-114° C./0.07 mbar.

reactant | 1-methylhydantoin | 116 mmol, 13.24 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | potassium carbonate | 140 mmol, 19.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-propionaldehyd-dimethylacetal | COC(CCBr)OC | C5H11BrO2
solvent | dimethylsulfoxid | 90 ml | CS(=O)C | C2H6OS
product | 3-(3,3-dimethoxy-propyl)-1-methyl-imidazolidin-2,4-dione | COC(CCN1C(N(CC1=O)C)=O)OC | C9H16N2O4
